US04322418
1-(α-Dimethylaminocarbonyl-benzyl)-6-methoxy-3,4-dihydroisoquinoline-hydrochloride
An amount of 3.9 gm (11.5 mmol) of phenylmalonic acid dimethylamide-[2-(3-methoxyphenyl)-ethylamide] was dissolved in 60 ml of chloroform, and the resulting solution was then mixed with 13.7 gm (90 mmol) of POCl3 and refluxed for 6 hours. The solvent was removed in a rotary vaporizer, the residue was dissolved in CH2Cl2, and that solution was added dropwise to a cold saturated K2CO3 solution. After extraction three times with CH2Cl2, the combined organic extracts were extracted three times with 2 N HCl. The combined HCl phases were made alkaline with K2CO3 and again extracted with CH2Cl2. The organic phase was dried and then concentrated under reduced pressure, and the residue was treated with ethereal HCl. The hydrochloride precipitated was dissolved in isopropanol, the solution was treated with active charcoal, and diethyl ether was added to the solution until the solution began to become turbid. After being left overnight in a refrigerator, the desired compound crystallized out as the hydrochloride.

reactant | phenylmalonic acid dimethylamide-[2-(3-methoxyphenyl)-ethylamide] | 11.5 mmol, 3.9 gm | COC=1C=C(C=CC1)CCNC(C(C(=O)N(C)C)C1=CC=CC=C1)=O | C20H24N2O3
reactant | POCl3 | 90 mmol, 13.7 gm | O=P(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(α-Dimethylaminocarbonyl-benzyl)-6-methoxy-3,4-dihydroisoquinoline-hydrochloride | Cl.CN(C(=O)C(C1=CC=CC=C1)C1=NCCC2=CC(=CC=C12)OC)C | InChI=1S/C20H22N2O2.ClH/c1-22(2)20(23)18(14-7-5-4-6-8-14)19-17-10-9-16(24-3)13-15(17)11-12-21-19;/h4-10,13,18H,11-12H2,1-3H3;1H
